US04499300
Preparation of 4-Ethylbenzeneacetic Acid
A 300 ml 3-neck flask equipped with a mechanical stirrer, condenser, dropping funnel, and Dean-Stark trap was charged with 66.9 grams (0.45 mol) 4-ethylacetophenone, 62.1 grams (0.71 mol) morpholine, and 22.8 grams (0.71 mol) sulfur. The contents were heated to 135°-140° C. under nitrogen, in some cases with removal of water. After 3 hours, the mixture was cooled to about 40° C. and about 120 grams of a 20% aqueous sodium hydroxide solution was added with stirring. This mixture was then heated to reflux and stirred for about 9 hours. After the reaction mixture was cooled some of the morpholine and water were distilled off at 90-100 Torr. To the residue at 60° C. was added slowly with stirring 50 ml of concentrated hydrochloric acid brought to boiling and the hot reaction mass was stirred for about 1 hour. The solid, which is a mixture mainly of the formed acid and sulfur, was collected after cooling by filtration and subsequently extracted with a 15% aqueous solution of sodium bicarbonate. The filtrate then was heated to boiling, decolorized with carbon, filtered, and the procedure repeated with the filtrate. The solid was washed with hot water, and the combined filtrates were acidified with concentrated hydrochloric acid to precipitate the free 4-ethylbenzeneacetic acid which was collected by filtration. Comparison of experiments performed with and without water removal during the morpholine-sulfur stage is shown in Table 2.

reactant | 4-ethylacetophenone | 0.45 mol, 66.9 grams | CCC1=CC=C(C=C1)C(=O)C | C10H12O
reactant | morpholine | 0.71 mol, 62.1 grams | N1CCOCC1 | C4H9NO
reactant | sulfur | 0.71 mol, 22.8 grams | [S] | S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Ethylbenzeneacetic Acid | C(C)C1=CC=C(C=C1)CC(=O)O | C10H12O2
